US08754100B2
Synthesis of 4-hydroxy-2-(2-trifluoromethylphenyl)butyronitrile
4-(tert-Butyldimethylsilyloxy)-2-(2-trifluoromethylphenyl)butyronitrile (5 g) was dissolved in tetrahydrofuran (70 mL). Tetrabutylammonium fluoride (1 M solution in tetrahydrofuran) (18 mL) was added and the mixture was stirred at room temperature for 4.5 hours. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (3.1 g). The property values of the compound are as follows.

reactant | 4-(tert-Butyldimethylsilyloxy)-2-(2-trifluoromethylphenyl)butyronitrile | 5 g | [Si](C)(C)(C(C)(C)C)OCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C17H24F3NOSi
reactant | Tetrabutylammonium fluoride | 1 M, 18 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-hydroxy-2-(2-trifluoromethylphenyl)butyronitrile | 3.1 g | OCCC(C#N)C1=C(C=CC=C1)C(F)(F)F | C11H10F3NO
